US07968585B2
(2,6-dichloro-4-benzyloxy-phenyl)-methanol
Treat a 0° C. mixture of 2,6-dichloro-4-benzyloxy-benzaldehyde (245 g, 0.871 mol) in ethanol (3 L) with sodium borohydride (32.97 g, 0.897 mol). Warm the reaction to room temperature and stir for 2 hours. Add the reaction mixture to saturated ammonium chloride (8 L). Extract the mixture with CH2Cl2 and dry the organic layer with Na2SO4. Remove the solvent in vacuo to afford 247 g (100%) of the titled product. 1H NMR (400 MHz, DMSO-d6) δ 7.38 (m, 4H), 7.33 (m, 1H), 7.12 (s, 2H), 5.14 (s, 2H), 5.05 (t, 1H), 4.59 (d, 2H).

reactant | 2,6-dichloro-4-benzyloxy-benzaldehyde | 0.871 mol, 245 g | ClC1=C(C=O)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C14H10Cl2O2
reactant | sodium borohydride | 0.897 mol, 32.97 g | [BH4-].[Na+]
reactant | ammonium chloride | 8 L | [Cl-].[NH4+]
solvent | ethanol | 3 L | C(C)O | C2H6O
product | (2,6-dichloro-4-benzyloxy-phenyl)-methanol | 247 g, 100% | ClC1=C(C(=CC(=C1)OCC1=CC=CC=C1)Cl)CO | C14H12Cl2O2
